US07560596B2
Synthesis of [2,3′]bipyridinyl-6-ylamine (FIG. 4, Entry 4)
The general procedure described in Example 3 was used with 6-chloro-pyridin-2-ylamine (129 mg, 1.00 mmol), 3-pyridylboronic acid (184 mg, 1.50 mmol), Pd(OAc)2 (2.2 mg, 0.010 mmol, 1 mol %), sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate (10.0 mg, 0.020 mmol, 2 mol %), K2CO3 (414 mg, 3.00 mmol), water (2.0 mL), 12 h, 100° C. The product was purified by column chromatography on silica gel (eluting with ethyl acetate/methanol, 9.5/0.5) to give the desired product as a white solid (145 mg, 85%). Mp=108° C. 1H NMR (400 MHz, d4-MeOH) δ: 8.69 (d, 1H, J=4.8 Hz), 8.43 (dd, 1H, J=4.8 Hz, 1.6 Hz), 8.19 (d, 1H, J=4.8 Hz), 7.96 (dq, 1H, J=8.0 Hz, 1.6 Hz, 0.4 Hz), 7.75 (dd, 1H, J=8.8 Hz, 2.4 Hz), 7.44 (qd, 1H, J=4.8 Hz, 8.8 Hz), 6.68 (d, 1H, J=8.4 Hz). 13C NMR (125 MHz, d4-MeOH) δ: 161.0, 148.2, 147.4, 146.5, 137.9, 136.0, 135.4, 125.6, 123.4, 110.6. IR (neat, cm−1): 3396 (br), 2522, 1633, 1018. EI-MS: Theoretical [M+H]=172.0869. Found: 172.0868. Anal. Calcd for C10H9N3: C, 70.16; H, 5.30. Found: C, 69.89; H, 5.25.

reactant | 6-chloro-pyridin-2-ylamine | 1.00 mmol, 129 mg | ClC1=CC=CC(=N1)N | C5H5ClN2
reactant | 3-pyridylboronic acid | 1.50 mmol, 184 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | K2CO3 | 3.00 mmol, 414 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(OAc)2 | 0.010 mmol, 2.2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate | 0.020 mmol, 10.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C(=CC=C1OC)S(=O)(=O)[O-])OC)C1CCCCC1.[Na+]
solvent | water | 2.0 mL | O | H2O
product | [2,3′]bipyridinyl-6-ylamine | 145 mg, 85% | N1=C(C=CC=C1N)C=1C=NC=CC1 | C10H9N3
